US06953790B2
Step B. Benzyl 4-(5-allyl-2,4-dioxoimidazolidin-1-yl)piperidine-1-carboxylate
Trimethylsilyl isocyanate (1.66 g, 14.4 mmol) was added to a solution of benzyl 4-{[1-(methoxycarbonyl)but-3-en-1-yl]amino}piperidine-1-carboxylate (2.00 g, 5.77 mmol) and DMAP (71 mg, 0.57 mmol) in THF (30 mL) at room temperature. The reaction was heated at 50° C. for 48 h. The reaction was quenched with saturated aqueous sodium bicarbonate, extracted with methylene chloride (3×), dried over sodium sulfate, filtered and evaporated to give the crude product. The crude product was purified by chromatography (silica gel, 0 to 20% methanol in methylene chloride gradient elution), which gave the title compound (1.66 g). MS 358.2 (M+1).

reactant | Trimethylsilyl isocyanate | 14.4 mmol, 1.66 g | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | benzyl 4-{[1-(methoxycarbonyl)but-3-en-1-yl]amino}piperidine-1-carboxylate | 5.77 mmol, 2.00 g | COC(=O)C(CC=C)NC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C19H26N2O4
catalyst | DMAP | 0.57 mmol, 71 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Benzyl 4-(5-allyl-2,4-dioxoimidazolidin-1-yl)piperidine-1-carboxylate | 1.66 g | C(C=C)C1C(NC(N1C1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O)=O | C19H23N3O4
